### PR TITLE
Kaplansky: use ordinary torsion-freeness, not IsMulTorsionFree

### PR DESCRIPTION
**Pull request by mo271**
Kaplansky's conjectures concern torsion-free groups: the identity is the only element of finite order. The file used Mathlib's `IsMulTorsionFree`, which requires `a ↦ a ^ n` to be injective for all `n ≠ 0` (uniqueness of roots). The two agree for commutative groups but `IsMulTorsionFree` is strictly stronger in general, and the Promislow group P fails it: `(a²b)² = b²` with `a²b ≠ b`. So `promislow_group_is_torsionfree` was false, the two `counter_unit_conjecture` statements asserted more than the cited results, and the two open conjectures were stated only for a subclass of the intended groups.

The file originally used `Monoid.IsTorsionFree`, which Mathlib later deprecated in favour of `IsMulTorsionFree` (#24311) and removed; the toolchain bump silently strengthened the hypothesis. Mathlib currently has no predicate for ordinary torsion-freeness of noncommutative groups, so this reintroduces `Monoid.IsTorsionFree` (with `to_additive`) in ForMathlib, following the former Mathlib definition, together with the implication from `IsMulTorsionFree` and the equivalence for commutative groups.

identified by @tadamcz running an AI pipeline: https://tadamcz.com/fc-review-results/#/f/Wikipedia/Kaplansky

### CODE REVIEW

**Comment by j2d9w5xtjn-png** [comment]
I arrived at this independently from the other direction (auditing a new file that copied the
`IsMulTorsionFree` idiom from here) and opened a duplicate, #5457, now closed in favour of this.
Reintroducing the predicate in ForMathlib is clearly the better fix.

One thing I can contribute: a sorry-free Lean proof that `IsMulTorsionFree PromislowGroup` really
is false, in case it is useful to have the claim machine-checked rather than asserted. It is the
mirror of your witness — you use the first relator `b⁻¹a²ba²`, which gives `a²ba² = b` and hence
`(a²b)² = b²`; I used the second relator `a⁻¹b²ab²`, which gives `b²ab² = a` and hence
`(b²a)² = a²`. The non-triviality half is the homomorphism to `ZMod 4` sending `a ↦ 0`, `b ↦ 1`,
which kills both relators and sends `b²` to `2`.

<details>
<summary>Proof, checked against <code>8faf8bcc</code>; <code>#print axioms</code> gives only <code>[propext, Classical.choice, Quot.sound]</code></summary>

```lean
import FormalConjectures.Wikipedia.Kaplansky

open Kaplansky

namespace PromislowAudit

abbrev A : PromislowGroup := PresentedGroup.of 0
abbrev B : PromislowGroup := PresentedGroup.of 1

/-- The second relator `a⁻¹b²ab²` of the Promislow presentation. -/
lemma rel₂ : A⁻¹ * B * B * A * B * B = 1 := by
  have h := PresentedGroup.one_of_mem (rels := {(FreeGroup.of (1 : Fin 2))⁻¹ * FreeGroup.of 0 *
      FreeGroup.of 0 * FreeGroup.of 1 * FreeGroup.of 0 * FreeGroup.of 0,
    (FreeGroup.of (0 : Fin 2))⁻¹ * FreeGroup.of 1 * FreeGroup.of 1 * FreeGroup.of 0 *
      FreeGroup.of 1 * FreeGroup.of 1})
    (x := (FreeGroup.of (0 : Fin 2))⁻¹ * FreeGroup.of 1 * FreeGroup.of 1 * FreeGroup.of 0 *
      FreeGroup.of 1 * FreeGroup.of 1) (by simp)
  simp only [map_mul, map_inv] at h
  exact h

/-- Hence `B²AB² = A`, so `B²A` and `A` have the same square. -/
lemma sq_eq : (B * B * A) ^ 2 = A ^ 2 := by
  have h : B * B * A * B * B = A := by
    have := congrArg (A * ·) rel₂
    simpa [mul_assoc] using this
  calc (B * B * A) ^ 2 = B * B * A * B * B * A := by rw [sq]; group
    _ = A * A := by rw [h]
    _ = A ^ 2 := (sq A).symm

/-- `a ↦ 0`, `b ↦ 1` in `ZMod 4` kills both relators but not `b²`. -/
def φ : PromislowGroup →* Multiplicative (ZMod 4) :=
  PresentedGroup.toGroup (f := fun i : Fin 2 => Multiplicative.ofAdd (if i = 0 then 0 else 1))
    (by rintro r (rfl | rfl) <;> simp <;> decide)

lemma B_sq_ne_one : B * B ≠ 1 := by
  intro h
  have : φ (B * B) = 1 := by rw [h, map_one]
  rw [map_mul] at this
  simp only [φ, PresentedGroup.toGroup.of] at this
  revert this
  decide

theorem not_isMulTorsionFree : ¬ IsMulTorsionFree PromislowGroup := by
  intro hfree
  have h2 : B * B * A = A := hfree.pow_left_injective two_ne_zero sq_eq
  have h3 : B * B * A = 1 * A := by rw [one_mul]; exact h2
  exact B_sq_ne_one (mul_right_cancel h3)

end PromislowAudit
```
</details>

Happy for it to be used, adapted, or ignored — it is about a class the file no longer mentions
once this lands, so it may not belong in the tree.

Separately: #5456 states two consequences of Farrell–Jones and needs the same notion of
torsion-freeness. I have written it out inline there to keep it independent of this PR, and will
switch it to `Monoid.IsTorsionFree` once this merges.

**Review by YaelDillies — COMMENTED** [review]
Can you mention https://github.com/leanprover-community/mathlib4/pull/43727 somewhere?

File: FormalConjecturesForMathlib/GroupTheory/Torsion.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+This file defines `Monoid.IsTorsionFree G`, the predicate saying that `1` is the only element of
+finite order in `G`.
+
+Mathlib's `IsMulTorsionFree G` asks instead that `a ↦ a ^ n` be injective for every `n ≠ 0`
+(uniqueness of roots). The two notions agree for commutative groups
+(`isMulTorsionFree_iff_not_isOfFinOrder`), but for noncommutative groups `IsMulTorsionFree` is
+strictly stronger: the Klein bottle group `⟨a, b | b⁻¹ab = a⁻¹⟩` is torsion-free, yet
+`(ab)² = b²` with `ab ≠ b`. Statements about torsion-free groups in the literature, such as
+Kaplansky's conjectures on group rings, use the weaker notion defined here.
+-/
```
Comment (mo271) [inline FormalConjecturesForMathlib/GroupTheory/Torsion.lean:36]:
```suggestion

TODO(mo271): refactor after https://github.com/leanprover-community/mathlib4/pull/43727 lands
-/
```

**Review by YaelDillies — APPROVED** [review]
